US05389669
Preparation of 4-(2,3-Dichlorophenyl)pyrrole-3-carboxylic acid
A mixture of ethyl 4-(2,3-dichlorophenyl)pyrrole-3-carboxylate (5.95 g, 21 mmol) and potassium hydroxide (6.5 g, 85%, 99 mmol) is heated at reflux for 6 hours, cooled, diluted with water and washed with diethyl ether. The aqueous phase is acidified with hydrochloric acid and filtered to obtain a solid. The solid is washed with diethyl ether and petroleum ether and dried to give the title product as a white solid (5.24 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | ethyl 4-(2,3-dichlorophenyl)pyrrole-3-carboxylate | 21 mmol, 5.95 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(=O)OCC | C13H11Cl2NO2
reactant | potassium hydroxide | 99 mmol, 6.5 g | [OH-].[K+]
solvent | water | O | H2O
product | 4-(2,3-Dichlorophenyl)pyrrole-3-carboxylic acid | 5.24 g | ClC1=C(C=CC=C1Cl)C=1C(=CNC1)C(=O)O | C11H7Cl2NO2
